US05470856
1,6-Dihydro-5(4H)-pyrimidinone O-(phenylmethyl)oxime monohydrochloride
1,3-Diaminoacetone dihydrochloride monohydrate (2.00 g, 11.2 mmol) was dissolved in refluxing methanol and O-phenylmethylhydroxylamine hydrochloride (3.30 g, 20.5 mmol) was added. After refluxing for 20 hours the solvent was evaporated. The crude product was dissolved in methanol and an excess of trimethylorthoformate was added to the reaction mixture which was heated to reflux. After 48 hours the solvent was removed in vacuo. Crystallization from methanol/ethyl acetate afforded 1.60 g (60%) of white material. Mp. 167.5° C.

reactant | 1,3-Diaminoacetone dihydrochloride monohydrate | 11.2 mmol, 2.00 g | O.Cl.Cl.NCC(=O)CN
reactant | O-phenylmethylhydroxylamine hydrochloride | 20.5 mmol, 3.30 g | Cl.C1(=CC=CC=C1)CON
reactant | methanol | CO | CH4O
product | 1,6-Dihydro-5(4H)-pyrimidinone O-(phenylmethyl)oxime monohydrochloride | 1.60 g, 60% | Cl.C1(=CC=CC=C1)CON=C1CN=CNC1 | InChI=1S/C11H13N3O.ClH/c1-2-4-10(5-3-1)8-15-14-11-6-12-9-13-7-11;/h1-5,9H,6-8H2,(H,12,13);1H
